US06127354
(2R)-2-(N-(tert-Butoxycarbonyl)-N-methylamino)-3-(2-naphthyl)propionic acid (357 mg, 1.08 mmol) and 1-hydroxy-7-azabenzotriazole (148 mg, 1.08 mmol) were dissolved in N,N-dimethylformamide (2 ml) and dichloromethane (2 ml). The solution was cooled to 0° C. N-(3-Dimethylaminopropyl)-N'-ethylcarbodiimide hydrochloride (208 mg, 1.08 mmol) was added. The reaction mixture was stirred for 20 min at 0° C. A solution of 3-[2-(2-methylaminoethyl)phenoxy]propan-1-ol (227 mg, 1.08 mmol) in dichloromethane (2 ml) and ethyldiisopropyoamine (0.2 ml, 1.08 mmol) were added. The reaction mixture was stirred for 16 h, while it was warming up to room temperature. It was diluted with ethyl acetate (100 ml) and washed with a 10% aqueous solution of sodium hydrogen sulfate (100 ml). The aqueous phase was extracted with ethyl acetate (2×50 ml). The combined organic layeres were washed with a saturated aqueous solution of sodium hydrogen carbonate (100 ml) and dried over magnesium sulfate. The solvent was removed in vacuo. The crude product was purified by flash chromatography on silica (30 g), using ethyl acetate/heptane (2:1) as eluent, to give 383 mg of N-[(1R)-1-(N-{2-[2-(3-hydroxypropoxy)phenyl]ethyl}-N-methylcarbamoyl)-2-(2-naphthyl)ethyl]-N-methylcarbamic acid tert-butyl ester.

reactant | (2R)-2-(N-(tert-Butoxycarbonyl)-N-methylamino)-3-(2-naphthyl)propionic acid | 1.08 mmol, 357 mg | C(C)(C)(C)OC(=O)N(C)[C@@H](C(=O)O)CC1=CC2=CC=CC=C2C=C1 | C19H23NO4
reactant | 1-hydroxy-7-azabenzotriazole | 1.08 mmol, 148 mg | ON1N=NC2=C1N=CC=C2 | C5H4N4O
reactant | N-(3-Dimethylaminopropyl)-N'-ethylcarbodiimide hydrochloride | 1.08 mmol, 208 mg | Cl.CN(CCCN=C=NCC)C
reactant | 3-[2-(2-methylaminoethyl)phenoxy]propan-1-ol | 1.08 mmol, 227 mg | CNCCC1=C(OCCCO)C=CC=C1 | C12H19NO2
solvent | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | N-[(1R)-1-(N-{2-[2-(3-hydroxypropoxy)phenyl]ethyl}-N-methylcarbamoyl)-2-(2-naphthyl)ethyl]-N-methylcarbamic acid tert-butyl ester | 383 mg | C(C)(C)(C)OC(N(C)[C@H](CC1=CC2=CC=CC=C2C=C1)C(N(C)CCC1=C(C=CC=C1)OCCCO)=O)=O | C31H40N2O5
